US04408057
In the manner of Example 1, step I, heating 2.3 g (0.011 mole) of 4-(1-pyrrolyl)-1-indanol in the presence of 0.1 g of p-toluenesulfonic acid and 50 mL of toluene gave 2.0 g of 7-(1-pyrrolyl)-1H-indene as an oil.

reactant | 4-(1-pyrrolyl)-1-indanol | 0.011 mole, 2.3 g | N1(C=CC=C1)C1=C2CCC(C2=CC=C1)O | C13H13NO
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7-(1-pyrrolyl)-1H-indene | 2.0 g | N1(C=CC=C1)C=1C=CC=C2C=CCC12 | C13H11N
